US04115385
To a stirred suspension of 1.0 g (0.0028 mole) of 6-(2-bromoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam in 25 ml of methylene chloride is added 0.28 g (0.0028 mole) of triethylamine. The mixture is stirred at ambient temperature until a clear solution is obtained, and then 0.39 g of 4-mercaptopyridine is added. Stirring is continued for a further 4 hours at ambient temperature, and then the solid which has precipitated is filtered off. It is washed with methylene chloride, followed by ether, to give 0.68 g (78% yield) of 6(2-[4-pyridylthio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam, m.p. 120° C. (dec.). The infrared spectrum of the product (KBr disc) shows absorption bands at 1790 cm-1 (β-lactam), 1670 cm-1 (amide II). The NMR spectrum (DMSO-d6) shows absorption bands at 9.0-7.0 ppm (multiplet, pyridine hydrogens), 5.9-5.5 ppm (multiplet, C-5 and C-6 hydrogen), 4.0 ppm (singlet, methylene hydrogens), 1.7 ppm (singlet, C-2 methyl hydrogens) and 1.1 (singlet, C-2 methyl hydrogens).

reactant | 6-(2-bromoacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.0028 mole, 1.0 g | BrCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C10H13BrN6O2S
reactant | triethylamine | 0.0028 mole, 0.28 g | C(C)N(CC)CC | C6H15N
reactant | 4-mercaptopyridine | 0.39 g | SC1=CC=NC=C1 | C5H5NS
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 6(2-[4-pyridylthio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.68 g, 78% yield | N1=CC=C(C=C1)SCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C15H17N7O2S2
